*
* NGSPICE simulation script
*Title: t2.45
*

* forces current values to be saved
.options savecurrents

.include data1.txt
.include data2.txt
.include data3.txt

*voltage sources
Vs 1 0 0 ac 1.0 sin (0 1 1k) 

Vnull 0 0b 0.V

Hvd 5 8 Vnull pKd


*current sources
Gib 6 3 2 5 pKb

*capacitor
C 6 8 pC
.ic V(6) = pV6 V(8) = pV8


*resistors
R1 1 2 pR1

R2 3 2 pR2

R3  2 5 pR3

R4 5 0 pR4

R5 6 5 pR5

R6 0b 7 pR6

R7 7 8 pR7

.op
.end


*Control comands
.control


*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


op
*echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
*print all
*echo  "op_END"

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy t2.4.ps V(6)
echo t2.4_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 0.1 1MEG

*hardcopy t2.5.ps db(v(6)) db(v(1))
*hardcopy t2.5.ps vdb(6) vdb(1)
hardcopy t2.5.ps v(6) v(1)
echo t2.5_FIG

.endc
